US08461153B2
2,6-Diethylbenzyl acetate
To a cooled (dry ice-acetone bath) mixture of 2,6-dibromo-benzyl acetate (5.05 g, 16.4 mmol) and PdCl2(dppf) (0.08 eq) in dry THF (50 mL) was added 1.1 M Et2Zn (60 mL, 66 mmol, 4 eq). The resulting mixture was allowed to warm to RT, stirred at 45° C. (programmed block temperature, ˜40 h), and added to a stirred mixture of dilute HCl and heptane/EtOAc. The organic layer was dried (Na2SO4), filtered, and evaporated. Chromatography (2%-10% EtOAc/heptane stepwise gradient) gave 2.12 g (yield of 63%) of the title product, along with 0.20 g of 2,6-diethylbenzyl alcohol. 1H NMR (300 MHz, CDCl3) δ 1.21 (t, 6H), 2.07 (s, 3H), 2.70 (q, 4H), 5.19 (s, 2H), 7.09 (d, 2H), 7.22 (dd, 1H). The following compound was prepared by making appropriate substitutions to the above procedure:

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 2,6-dibromo-benzyl acetate | 16.4 mmol, 5.05 g | C(C)(=O)OCC1=C(C=CC=C1Br)Br | C9H8Br2O2
reactant | Et2Zn | 66 mmol, 1.1 M, 60 mL, 4 eq | [Zn](CC)CC
reactant | HCl | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.08 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 2,6-Diethylbenzyl acetate | 2.12 g, yield of 63% | C(C)(=O)OCC1=C(C=CC=C1CC)CC | C13H18O2
